US04645844
Preparation of m-aminophenoxy-2-methylpropyl Methyldimethoxysilane
Using the general procedure described in Example 1 a reactor is charged with 60 g (0.55 mole) of p-aminophenol, 43.28 g of a 50% by weight aqueous solution of sodium hydroxide (0.54 mole NaOH), 112 cc dimethylsulfoxide and 120 cc toluene. The resultant mixture is heated to the boiling point for six hours under a nitrogen atmosphere to remove all of the water present by azeotropic distillation. The reaction mixture is then allowed to cool to about 75° C., at which time 117 g (0.56 mole) of 2-methylchloropropyl methyldimethoxysilane are added dropwise while the reaction mixture is stirred. Following completion of the addition the reaction mixture is heated at 115° C. for about 16 hours, following which the mixture is allowed to cool and is filtered to remove any solid material. The solvents are then removed under a pressure of about 15 mm of mercury at a temperature of about 60° C. The pressure is then reduced to 2 mm of mercury and the material boiling at 165° C. is collected. Analysis by vapor phase chromatography indicates that the purity of the product, a pale yellow viscous liquid, was greater than 98%.

reactant | p-aminophenol | 0.55 mole, 60 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium hydroxide | 0.54 mole | [OH-].[Na+]
reactant | dimethylsulfoxide | 112 cc | CS(=O)C | C2H6OS
reactant | 2-methylchloropropyl methyldimethoxysilane | 0.56 mole, 117 g | CC(C[Si](OC)(OC)C)CCl | C7H17ClO2Si
solvent | toluene | 120 cc | C1(=CC=CC=C1)C | C7H8
product | m-aminophenoxy-2-methylpropyl Methyldimethoxysilane | NC=1C=C(OCO[Si](OC)(C)CC(C)C)C=CC1 | C13H23NO3Si
